US07250433B2
To a solution of {2-isopropyl-1-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-cyclopropylmethyl}-carbamic acid tert-butyl ester (3.30 g, 11.1 mmol) in dry 1,4-dioxane (20 ml) was added 4N HCl (40 mL, in 1,4-dioxane). The reaction mixture was stirred at room temperature overnight and diluted with ether (100 mL). The precipitate was collected and dried to give 1.6 g (62%) of 3-(1-aminomethyl-2-isopropyl-cyclopropyl)-4H-[1,2,4]oxadiazol-5-one hydrochloride as a white solid: mp: 178-179° C.; 1H NMR (300 MHz, D2O) δ 1.01 (d, J=5.8 Hz, 3H), 1.10 (d, J=5.8 Hz, 3H), 1.22 (t, J=6.1 Hz, 1H), 1.38-1.46 (m, 2H), 1.56 (m, 1H), 3.12 (d, J=14.2 Hz, 1H), 3.93 (d, J=14.2 Hz, 1H); 13C NMR (75 MHz, D2O) δ 18.1, 20.3, 21.7, 21.9, 29.0, 36.3, 39.3, 162.3, 162.5; MS (APCI) m/z 198 [M+H]+. Anal. Calcd. For C9H15N3O2—HCl: C, 46.26; H, 6.90; N, 17.98; Cl, 15.17. Found: C, 46.39; H. 6.84; N, 17.85; Cl, 14.79.

reactant | {2-isopropyl-1-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-cyclopropylmethyl}-carbamic acid tert-butyl ester | 11.1 mmol, 3.30 g | C(C)(C)(C)OC(NCC1(C(C1)C(C)C)C1=NOC(N1)=O)=O | C14H23N3O4
reactant | HCl | 4N, 40 mL | Cl | ClH
solvent | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | ether | 100 mL | CCOCC | C4H10O
product | 3-(1-aminomethyl-2-isopropyl-cyclopropyl)-4H-[1,2,4]oxadiazol-5-one hydrochloride | 1.6 g, 62% | Cl.NCC1(C(C1)C(C)C)C1=NOC(N1)=O | InChI=1S/C9H15N3O2.ClH/c1-5(2)6-3-9(6,4-10)7-11-8(13)14-12-7;/h5-6H,3-4,10H2,1-2H3,(H,11,12,13);1H
